US07795282B2
Step D: Preparation of tert-butyl 3-(5-(2,5-difluorophenyl)-2-(3-hydroxyphenyl)-3-(5-methyl-1,3,4-thiadiazol-2-yl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate:
t-Butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-3-(5-methyl-1,3,4-thiadiazol-2-yl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate (75 mg, 0.113 mmol) was weighed into a 25 mL flask and dissolved in 10.0 mL of THF, then cooled to 0° C. TBAF (0.39 mL, 0.39 mmol) was added dropwise and the reaction mixture was allowed to warm to room temperature overnight. The reaction mixture was concentrated to dryness, then re-dissolved in DCM, washed with saturated NaHCO3 solution, dried over Na2SO4, and concentrated in vacuo. The residue was purified by removal of tributylamine via successive washes with 1N HCl. The organic layer was concentrated in vacuo, and the yellow oil subject to purification by flash column chromatography (25-60% ethyl acetate/hexanes) to afford the desired product (51 mg, 82% yield) as a yellow foam.

reactant | t-Butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-3-(5-methyl-1,3,4-thiadiazol-2-yl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 0.113 mmol, 75 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1(SC(=NN1C=1SC(=NN1)C)C1=C(C=CC(=C1)F)F)CCCNC(OC(C)(C)C)=O | C31H41F2N5O3S2Si
reactant | TBAF | 0.39 mmol, 0.39 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(5-(2,5-difluorophenyl)-2-(3-hydroxyphenyl)-3-(5-methyl-1,3,4-thiadiazol-2-yl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 51 mg, 82% yield | FC1=C(C=C(C=C1)F)C1=NN(C(S1)(C1=CC(=CC=C1)O)CCCNC(OC(C)(C)C)=O)C=1SC(=NN1)C | C25H27F2N5O3S2
